US07319099B2
(b) 4-[4-(2-Methyl-2H-tetrazol-5-yl)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester
Prepared in analogy to example 4.4 (a) from 5-(4-Bromo-phenyl)-2-methyl-2H-tetrazole and N-BOC-piperazine. MS (m/e): 345.1 (MH+, 41%)

reactant | 5-(4-Bromo-phenyl)-2-methyl-2H-tetrazole | BrC1=CC=C(C=C1)C=1N=NN(N1)C | C8H7BrN4
reactant | N-BOC-piperazine | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
product | 4-[4-(2-Methyl-2H-tetrazol-5-yl)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C=1N=NN(N1)C | C17H24N6O2
